US04738967
Isopropylamine (2 ml) was added to a suspension of N-cyano-N'-(7-chloro-2-methylimidazo[2,1-a]isoquinolin-3-yl)formamidine (0.95 g) in water (1.5 ml) and the mixture was stirred at room temperature for 30 minutes. The resulting precipitate was collected by filtration, washed with water and dissolved in ethanol. To the solution was added a saturated solution of hydrogen chloride in ethanol and the mixture was evaporated in vacuo. The residual solid was washed successively with a mixture of diethyl ether and ethanol and isopropanol and then dried in a desiccator to give N-isopropyl-N'-(7-chloro-2-methylimidazo[2,1-a]isoquinolin-3-yl)formamidine dihydrochloride (0.73 g).

reactant | Isopropylamine | 2 ml | C(C)(C)N | C3H9N
reactant | N-cyano-N'-(7-chloro-2-methylimidazo[2,1-a]isoquinolin-3-yl)formamidine | 0.95 g | C(#N)NC=NC1=C(N=C2N1C=CC1=C(C=CC=C21)Cl)C | C14H10ClN5
solvent | water | 1.5 ml | O | H2O
product | N-isopropyl-N'-(7-chloro-2-methylimidazo[2,1-a]isoquinolin-3-yl)formamidine dihydrochloride | 0.73 g | Cl.Cl.C(C)(C)NC=NC1=C(N=C2N1C=CC1=C(C=CC=C21)Cl)C | InChI=1S/C16H17ClN4.2ClH/c1-10(2)18-9-19-15-11(3)20-16-13-5-4-6-14(17)12(13)7-8-21(15)16;;/h4-10H,1-3H3,(H,18,19);2*1H
